US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluoro-3-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
A solution (5 mL) of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (131 mg, 0.40 mmol), 1-(4-fluoro-3-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (125 mg, 0.48 mmol), HATU (183 mg, 0.48 mmol) and N,N-diisopropylethylamine (103 mg, 0.80 mmol) in N,N-dimethylformamide was stirred at room temperature for 5 hr. The reaction solution was divided into two layers with tetrahydrofuran and sodium hydrogen carbonate saturated aqueous solution and the aqueous layer was subjected to extraction (3 times) with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (basic silica) and recrystallized from ethanol to give the title compound (100 mg, 44%) as a white solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.40 mmol, 5 mL, 131 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-(4-fluoro-3-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.48 mmol, 125 mg | FC1=C(C=C(C=C1)N1C(C(=CC=C1C)C(=O)O)=O)C | C14H12FNO3
reactant | HATU | 0.48 mmol, 183 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.80 mmol, 103 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(4-fluoro-3-methylphenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 100 mg, 44% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC(=C(C=C2)F)C)=O)F)C1 | C31H25F2N5O4
